US07608633B2
A. 1-(Indazol-1-yl)-3-(4-octylphenoxy)propan-2-ol
0.048 g (1.20 mmol) sodium hydride as a 60% dispersion in mineral oil is suspended in 10 ml absolute DMF, stirred at room temperature for 10 min and mixed with a solution of 0.135 g (1.14 mmol) indazole. Having stirred for 1 hour, a solution of 0.300 g (1.14 mmol) 2-(4-octylphenoxymethyl)oxirane in 10 ml absolute DMF is added drop-wise. The mixture is stirred for 40 hours, hydrolyzed with a semi-saturated NaCl solution and extracted four times using diethyl ether. The combined organic phases are concentrated to half the volume on the rotary evaporator and washed three times with saturated NaCl solution. Drying on sodium sulfate, filtration and reconcentration on the rotary evaporator leave a white solid which is recrystallized from petroleum ether/ethyl acetate (80:20).

reactant | sodium hydride | 1.20 mmol, 0.048 g | [H-].[Na+]
reactant | indazole | 1.14 mmol, 0.135 g | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | 2-(4-octylphenoxymethyl)oxirane | 1.14 mmol, 0.300 g | C(CCCCCCC)C1=CC=C(OCC2OC2)C=C1 | C17H26O2
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(Indazol-1-yl)-3-(4-octylphenoxy)propan-2-ol | N1(N=CC2=CC=CC=C12)CC(COC1=CC=C(C=C1)CCCCCCCC)O | C24H32N2O2
